US06787651B2
Indole-2-carboxylic acid was converted to 3-bromoindole-2-carboxylic acid using the method described for Example 13. N,N-dimethylformamide di-tert-butyl acetal (35 mL) was added dropwise to a stirring mixture of indole-3-bromo-2-carboxylic acid (14.9 g, 62 mmol) suspended in toluene (100 mL). After the addition was complete, the reaction was heated at 90° C. for 8 h. The reaction mixture was then cooled to room temperature and washed with cold water (2×100 mL). The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to yield the crude tert-butyl 3-bromoindole-2-carboxylate, assume quantitative yield. The crude product was used in the next step without purification.

reactant | Indole-2-carboxylic acid | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | 3-bromoindole-2-carboxylic acid | BrC1=C(NC2=CC=CC=C12)C(=O)O | C9H6BrNO2
reactant | N,N-dimethylformamide di-tert-butyl acetal | 35 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 3-bromoindole-2-carboxylate | quantitative yield | BrC1=C(NC2=CC=CC=C12)C(=O)OC(C)(C)C | C13H14BrNO2
